US07893059B2
A mixture of 5-chloro-7-morpholin-4-yl-2-piperazin-1-ylmethyl-thiazolo[5,4-d]pyrimidine with HCl salt (1 g, 2.6 mmol), L-(+)-lactic acid (460 mg, 5.1 mmol), HATU (1.9 g, 5.1 mmol) and N,N-diisopropylethylamine (1.4 mL, 7.8 mmol) in 8 mL of DMF was stirred overnight. The mixture was diluted with ethyl acetate, and washed with saturated sodium bicarbonate aqueous solution and brine. The organic layer was dried over magnesium sulfate, filtered and evaporated to yield the crude 1-[4-(5-Chloro-7-morpholin-4-yl-thiazolo[5,4-d]pyrimidin-2-ylmethyl)-piperazin-1-yl]-2-hydroxy-propan-1-one (900 mg).

reactant | 5-chloro-7-morpholin-4-yl-2-piperazin-1-ylmethyl-thiazolo[5,4-d]pyrimidine | ClC=1N=C(C2=C(N1)SC(=N2)CN2CCNCC2)N2CCOCC2 | C14H19ClN6OS
reactant | HCl | 2.6 mmol, 1 g | Cl | ClH
reactant | L-(+)-lactic acid | 5.1 mmol, 460 mg | C([C@@H](O)C)(=O)O | C3H6O3
reactant | HATU | 5.1 mmol, 1.9 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | N,N-diisopropylethylamine | 7.8 mmol, 1.4 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | DMF | 8 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-[4-(5-Chloro-7-morpholin-4-yl-thiazolo[5,4-d]pyrimidin-2-ylmethyl)-piperazin-1-yl]-2-hydroxy-propan-1-one | 900 mg | ClC=1N=C(C2=C(N1)SC(=N2)CN2CCN(CC2)C(C(C)O)=O)N2CCOCC2 | C17H23ClN6O3S
